US04970224
3-t-Butyl-5-(1,3-dioxolan-2-yl-methylthio)-1H-1,2,4-triazole (7 g, 28.8 mmole), 2.8 ml (30.5 mmole) of dimethylcarbamoyl chloride, 8 ml (57 mmole) of triethylamine and 0.5 g (4.1 mmole) of 4-dimethylaminopyridine were dissolved in 50 ml of tetrahydrofuran (THF). The mixture was refluxed for four hours, concentrated in vacuo and partitioned between methylene chloride and dilute hydrochloric acid. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated. Chromatography on silica gel using ethyl ether/hexane gave 1-dimethylcarbamoyl-3-t-butyl-5-(1,3-dioxolan-2-yl-methylthio)-1H-1,2,4triazole, an oil.

reactant | 3-t-Butyl-5-(1,3-dioxolan-2-yl-methylthio)-1H-1,2,4-triazole | 28.8 mmole, 7 g | C(C)(C)(C)C1=NNC(=N1)SCC1OCCO1 | C10H17N3O2S
reactant | dimethylcarbamoyl chloride | 30.5 mmole, 2.8 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 57 mmole, 8 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 4.1 mmole, 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-dimethylcarbamoyl-3-t-butyl-5-(1,3-dioxolan-2-yl-methylthio)-1H-1,2,4triazole | CN(C(=O)N1N=C(N=C1SCC1OCCO1)C(C)(C)C)C | C13H22N4O3S
